US04196185
PREPARATION OF IMMUNOGEN (PHENCYCLIDINE-BSA CONJUGATE)
A total of 250 mg of 4-[(1-piperidinyl)] benzoic acid sulfate 1/4 M hydrate was dissolved in 25 ml dimethylsulfoxide and diluted in 100 ml with 0.85% NaCl. The pH was adjusted to 4 using 2.5% NaOH and 500 mg of bovine serum albumin (BSA-Pentex Fraction V or equivalent) was slowly added to the solution while constantly monitoring pH at approximately 4 using dilute HCl. A total of 200 mg of 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide HCl (EDCI) was slowly added to the solution while maintaining pH at approximately 4 as above. The mixture was adjusted to pH 4.5 with 2.5% NaOH and continuously stirred for 24 hours at room temperature. The solution was transferred to a dialysis bag (Spectrum Medical Industries Spectrapor #2) and dialyzed against distilled water (6×) for 2 days and then against 85% NaCl (4×) for 2 days at room temperature. The dialyzate was tested by immunoelectrophoresis (0.05 ionic strength, pH 8.6 buffer, 1% aqueous gel plates and goat anti-BSA serum) and a precipitin band indicated that the immunogen was distinctly different from BSA.

reactant | 4-[(1-piperidinyl)] benzoic acid sulfate | 1/4 M, 250 mg | S(=O)(=O)(O)O.N1(CCCCC1)C1=CC=C(C(=O)O)C=C1
reactant | NaOH | [OH-].[Na+]
reactant | Pentex | CCCCN(CCCC)C(=S)SC(=S)N(CCCC)CCCC | C18H36N2S3
reactant | HCl | Cl | ClH
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide HCl | 200 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
solvent | NaCl | [Na+].[Cl-]
product | PHENCYCLIDINE | C=1C=CC(=CC1)C2(CCCCC2)N3CCCCC3 | C17H25N
